* Jellybean small-signal BJT SPICE models for simulation purposes only.
*
* Q1 (MMBT3904, NPN) and Q2/Q3 (MMBT3906, PNP) were authored as raw
* Component() primitives from KiCad system-library symbols and have no
* SPICE model attached in the registry (the registry index is not
* reachable from this sandbox). The parameter sets below are the
* well-known Fairchild/onsemi 2N3904/2N3906 SPICE decks, which are
* electrically equivalent to the MMBT390x SOT-23 parts (same die,
* different package) and are widely reused for exactly this purpose.
*
* Pin order: B E C (matches Component(pins={"B":.., "E":.., "C":..}))

.SUBCKT Q_NPN_MMBT3904 B E C
Q1 C B E QMOD_MMBT3904
.MODEL QMOD_MMBT3904 NPN(IS=6.734F XTI=3 EG=1.11 VAF=74.03 BF=416.4 NE=1.259
+ ISE=6.734F IKF=66.78M XTB=1.5 BR=.7371 NC=2 ISC=0 IKR=0 RC=1
+ CJC=3.638P MJC=.3085 VJC=.75 FC=.5 CJE=4.493P MJE=.2593 VJE=.75
+ TR=239.5N TF=301.2P ITF=.4 VTF=4 XTF=2 RB=10)
.ENDS Q_NPN_MMBT3904

.SUBCKT Q_PNP_MMBT3906 B E C
Q1 C B E QMOD_MMBT3906
.MODEL QMOD_MMBT3906 PNP(IS=1.41F XTI=3 EG=1.11 VAF=18.7 BF=180.7 NE=1.5
+ ISE=0 IKF=80M XTB=1.5 BR=4.977 NC=2 ISC=0 IKR=0 RC=2.5
+ CJC=9.728P MJC=.5776 VJC=.75 FC=.5 CJE=8.063P MJE=.3677 VJE=.75
+ TR=33.42N TF=179.3P ITF=.4 VTF=4 XTF=6 RB=10)
.ENDS Q_PNP_MMBT3906
